US05821240
(278) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[1-dimethylaminocarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tertbutyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine by reaction with trifluoroacetic acid and subsequent reaction with dimethylcarbamoyl chloride and triethylamine. Melting point: 187°-188° C.; Rf : 0.59 (alumina; petroleum ether/ethyl acetate/methanol=10:10:2)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tertbutyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H25ClFN7O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[1-dimethylaminocarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C(=O)N(C)C | C20H22ClFN8O
